US07320994B2
(2-chloro-phenyl)-(3-hydroxy-pyridin-2-yl)-methanone
Add trifluoroacetic acid (5 mL) to a solution of (2-chloro-phenyl)-[3-(2-trimethylsilanyl-ethoxymethoxy)-pyridin-2-yl]-methanone (195 mg, 0.54 mmol) in CH2Cl2 (3 mL), stir for 30 minutes. Concentrate; dissolve in 20% i-PrOH/CHCl3, wash with saturated NaHCO3 solution (×2). Dry the combined organic layers over MgSO4 and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-30% Et2O/hexanes to afford the title compound (102 mg, 82%) as white solid. MS(IS) 233.9 (M+1). TLC: Rf=0.20 (25% Et2O/hexanes).

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (2-chloro-phenyl)-[3-(2-trimethylsilanyl-ethoxymethoxy)-pyridin-2-yl]-methanone | 0.54 mmol, 195 mg | ClC1=C(C=CC=C1)C(=O)C1=NC=CC=C1OCOCC[Si](C)(C)C | C18H22ClNO3Si
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (2-chloro-phenyl)-(3-hydroxy-pyridin-2-yl)-methanone | 102 mg, 82% | ClC1=C(C=CC=C1)C(=O)C1=NC=CC=C1O | C12H8ClNO2
